### PR TITLE
[Merged by Bors] - feat: extend smoothness category of manifolds with corners to include analytic manifolds

### PR DESCRIPTION
**Pull request by sgouezel**
Now that `ContDiff` includes smoothness exponents up to analytic functions, we can do the same for manifolds. The PR renames `SmoothManifoldWithCorners` to `IsManifold`, and includes an additional smoothness exponent (ranging from 0 to infinity and omega). The docstring of `IsManifold` emphasizes that this allows (but does not mandate) corners or boundaries.

The file `SmoothManifoldWithCorners` itself is not renamed, to avoid confusing git, and will be renamed in a follow-up PR.

The current version of the PR also allows an additional smoothness exponent in the algebraic classes like `ContMDiffMul` or `LieGroup`. For all of these, we add a bunch of instances to deduce low smoothness from high smoothness versions (for example, `LieGroup I 2 G` is found by typeclass inference from `LieGroup I ∞ G`).

This change makes it possible to do things with the correct assumptions. For instance, the tangent bundle is a fiber bundle assuming only that the manifold is `C^1` (but we have instances saying that it is `C^∞` if the manifold is `C^∞`, analytic if the manifold is analytic).

Normally, I should have properly deprecated everything but instances. 

TODO in follow-up PRs:
* rename `SmoothManifoldWithCorners.lean` to `IsManifold.lean`
* deprecate the whole file `Manifold.Analytic.lean`

---

- [x] depends on: #19682
- [x] depends on: #19807

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
About naming: how about `IsManifoldWithCorners`? I agree `ContDiff` is superfluous, given the exponent as an explicit parameter.

**Review by grunweg — COMMENTED** [review]
This change means the following paragraph is also obsolete --- right? Can you take a pass over the module doc-string to ensure the implementation notes are up to date?

```
We concentrate on C^∞ manifolds: all the definitions work equally well for C^n manifolds, but later on it is a pain to carry all over the smoothness parameter, especially when one wants to deal with C^k functions as there would be additional conditions k ≤ n everywhere. Since one deals almost all the time with C^∞ (or analytic) manifolds, this seems to be a reasonable choice that one could revisit later if needed. C^k manifolds are still available, but they should be called using [HasGroupoid](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Manifold/ChartedSpace.html#HasGroupoid) M (contDiffGroupoid k I) where I is the model with corners.
```

**Comment by sgouezel** [comment]
Yes, I will need to pass over all docs to adjust it to the new setting. I'll do that once people agree on what they want in the Zulip discussion.

File: Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean [hunk 1]
```diff
@@ -15,27 +15,27 @@ In this file we define the complex manifold structure on the upper half-plane.
...
 
 namespace UpperHalfPlane
 
 noncomputable instance : ChartedSpace ℂ ℍ :=
   UpperHalfPlane.isOpenEmbedding_coe.singletonChartedSpace
 
-instance : SmoothManifoldWithCorners 𝓘(ℂ) ℍ :=
-  UpperHalfPlane.isOpenEmbedding_coe.singleton_smoothManifoldWithCorners
+instance : IsManifold 𝓘(ℂ) ω ℍ :=
+  UpperHalfPlane.isOpenEmbedding_coe.singleton_IsManifold
```
Comment (grunweg) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean:26]: Should this be `singleton_isManifold`?

File: Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean [hunk 2]
```diff
@@ -15,27 +15,27 @@ In this file we define the complex manifold structure on the upper half-plane.
...
 
 /-- The inclusion map `ℍ → ℂ` is a smooth map of manifolds. -/
```
Comment (grunweg) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean:28]: Can you update the doc-string, please? It's even analytic.

File: Mathlib/Geometry/Manifold/Instances/Real.lean [hunk 3]
```diff
@@ -377,12 +379,13 @@ instance Icc_smoothManifoldWithCorners (x y : ℝ) [Fact (x < y)] :
     exact (mem_groupoid_of_pregroupoid.mpr (symm_trans_mem_contDiffGroupoid _)).1
 
 /-! Register the manifold structure on `Icc 0 1`. These are merely special cases of
-`IccChartedSpace` and `Icc_smoothManifoldWithCorners`. -/
+`IccChartedSpace` and `intIsManifoldIcc`. -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Instances/Real.lean:382]:
```suggestion
`IccChartedSpace` and `instIsManifoldIcc`. -/

**Review by grunweg — COMMENTED** [review]
Three small comments; I have to turn to other things now.

Can you add deprecations for the old names, please? Thanks for doing this refactor!

**Comment by sgouezel** [comment]
I'll add the deprecations once everything has been sorted out in the Zulip discussion: no need to do the same work two or three times...

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 4]
```diff
@@ -27,17 +27,17 @@ variable {𝕜 : Type*} [NontriviallyNormedField 𝕜]
   {E' : Type*}
   [NormedAddCommGroup E'] [NormedSpace 𝕜 E'] {H' : Type*} [TopologicalSpace H']
   {I' : ModelWithCorners 𝕜 E' H'} {M' : Type*} [TopologicalSpace M'] [ChartedSpace H' M']
-  [SmoothManifoldWithCorners I' M']
+  [IsManifold I' n M']
   -- declare a smooth manifold `N` over the pair `(F, G)`.
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean:31]: Please update this comment; also the one below.

File: Mathlib/Geometry/Manifold/Instances/Sphere.lean [hunk 5]
```diff
@@ -549,11 +550,11 @@ follows by definition from the corresponding result for `Metric.Sphere`. -/
 instance : ChartedSpace (EuclideanSpace ℝ (Fin 1)) Circle :=
   EuclideanSpace.instChartedSpaceSphere
 
-instance : SmoothManifoldWithCorners (𝓡 1) Circle :=
-  EuclideanSpace.instSmoothManifoldWithCornersSphere (E := ℂ)
+instance : IsManifold (𝓡 1) ω Circle :=
+  EuclideanSpace.instIsManifoldSphere (E := ℂ)
 
 /-- The unit circle in `ℂ` is a Lie group. -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Instances/Sphere.lean:556]: depending on how the discussion ends: "is an analytic Lie group"?

File: Mathlib/Geometry/Manifold/Instances/Sphere.lean [hunk 6]
```diff
@@ -403,15 +404,15 @@ instance EuclideanSpace.instSmoothManifoldWithCornersSphere {n : ℕ} [Fact (fin
       rfl)
 
 instance (n : ℕ) :
-    SmoothManifoldWithCorners (𝓡 n) (sphere (0 :  EuclideanSpace ℝ (Fin (n + 1))) 1) :=
+    IsManifold (𝓡 n) ω (sphere (0 :  EuclideanSpace ℝ (Fin (n + 1))) 1) :=
   haveI := Fact.mk (@finrank_euclideanSpace_fin ℝ _ (n + 1))
-  EuclideanSpace.instSmoothManifoldWithCornersSphere
+  EuclideanSpace.instIsManifoldSphere
 
 /-- The inclusion map (i.e., `coe`) from the sphere in `E` to `E` is smooth. -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Instances/Sphere.lean:411]: You could even say "is analytic". (Not sure if that's clearer.) Or mention both.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Instances/Sphere.lean:411]: If so, also please update the module doc-string to this file.

File: Mathlib/Geometry/Manifold/Diffeomorph.lean [hunk 7]
```diff
@@ -439,13 +439,17 @@ end ContinuousLinearEquiv
...
+variable (I) (e : E ≃ₘ^n⟮𝓘(𝕜, E), 𝓘(𝕜, E')⟯ E') [NeZero n]
 
 /-- Apply a diffeomorphism (e.g., a continuous linear equivalence) to the model vector space. -/
-def transDiffeomorph (I : ModelWithCorners 𝕜 E H) (e : E ≃ₘ[𝕜] E') : ModelWithCorners 𝕜 E' H where
+def transDiffeomorph : ModelWithCorners 𝕜 E' H where
   toPartialEquiv := I.toPartialEquiv.trans e.toEquiv.toPartialEquiv
   source_eq := by simp
-  uniqueDiffOn' := by simp [range_comp e, I.uniqueDiffOn]
+  uniqueDiffOn' := by
+    have hn : 1 ≤ n := by exact ENat.one_le_iff_ne_zero_withTop.mpr (NeZero.ne n)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Diffeomorph.lean:449]: Can you simplify the `by exact`?

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Diffeomorph.lean:449]: And the `simp only`?

File: Mathlib/Geometry/Manifold/Diffeomorph.lean [hunk 8]
```diff
@@ -76,17 +76,17 @@ end Defs
...
 
 /-- Infinitely differentiable diffeomorphism between `M` and `M'` with respect to `I` and `I'`. -/
-scoped[Manifold] notation M " ≃ₘ⟮" I ", " J "⟯ " N => Diffeomorph I J M N ⊤
+scoped[Manifold] notation M " ≃ₘ⟮" I ", " J "⟯ " N => Diffeomorph I J M N ∞
 
 /-- `n`-times continuously differentiable diffeomorphism between `E` and `E'`. -/
 scoped[Manifold]
   notation E " ≃ₘ^" n:1000 "[" 𝕜 "] " E' =>
-    Diffeomorph (modelWithCornersSelf 𝕜 E) (modelWithCornersSelf 𝕜 E') E E' n
+    Diffeomorph 𝓘(𝕜, E) 𝓘(𝕜, E') E E' n
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Diffeomorph.lean:84]: :+1:, thanks!

File: Mathlib/Geometry/Manifold/ContMDiffMFDeriv.lean [hunk 9]
```diff
@@ -69,9 +69,15 @@ protected theorem ContMDiffWithinAt.mfderivWithin {x₀ : N} {f : N → M → M'
     (hf : ContMDiffWithinAt (J.prod I) I' n (Function.uncurry f) (t ×ˢ u) (x₀, g x₀))
     (hg : ContMDiffWithinAt J I m g t x₀) (hx₀ : x₀ ∈ t)
     (hu : MapsTo g t u) (hmn : m + 1 ≤ n) (h'u : UniqueMDiffOn I u) :
+    haveI : IsManifold I 1 M := .of_le (le_trans le_add_self hmn)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiffMFDeriv.lean:72]: These are annoying, but perhaps that's the price of such a major refactoring. It need not block in this, in any case.

File: Mathlib/Geometry/Manifold/ContMDiff/Atlas.lean [hunk 10]
```diff
@@ -106,9 +109,9 @@ theorem contMDiffWithinAt_extChartAt_symm_range
   (contMDiffWithinAt_extChartAt_symm_target x hy).mono_of_mem_nhdsWithin
     (extChartAt_target_mem_nhdsWithin_of_mem hy)
 
-/-- An element of `contDiffGroupoid ⊤ I` is `C^n` for any `n`. -/
+/-- An element of `contDiffGroupoid n I` is `C^n` for any `n`. -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Atlas.lean:112]: Please update this doc-string: "for any n" is now false. (I haven't checked if other doc-strings in this file are also stale now.)

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 11]
```diff
@@ -1051,6 +1051,10 @@ theorem StructureGroupoid.mem_maximalAtlas_of_mem_groupoid {f : PartialHomeomorp
   rintro e (rfl : e = PartialHomeomorph.refl H)
   exact ⟨G.trans (G.symm hf) G.id_mem, G.trans (G.symm G.id_mem) hf⟩
 
+theorem StructureGroupoid.maximalAtlas_mono {G G' : StructureGroupoid H} (h : G ≤ G') :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:1054]: Happy to approve this "immediately" if you extract it into a separate PR. (If you think the book-keeping is worth it.)
The same applies to other such clean-ups, I believe I saw a few more lines somewhere in this PR.

File: Mathlib/Geometry/Manifold/Algebra/Structures.lean [hunk 12]
```diff
@@ -54,8 +56,10 @@ instance (priority := 100) fieldSmoothRing {𝕜 : Type*} [NontriviallyNormedFie
 
 variable {𝕜 R E H : Type*} [TopologicalSpace R] [TopologicalSpace H] [NontriviallyNormedField 𝕜]
   [NormedAddCommGroup E] [NormedSpace 𝕜 E] [ChartedSpace H R] (I : ModelWithCorners 𝕜 E H)
+  (n : WithTop ℕ∞)
 
 /-- A smooth (semi)ring is a topological (semi)ring. This is not an instance for technical reasons,
 see note [Design choices about smooth algebraic structures]. -/
-theorem topologicalSemiring_of_smooth [Semiring R] [SmoothRing I R] : TopologicalSemiring R :=
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Algebra/Structures.lean:60]: Should this name also be updated? It also includes C^n, after all.

File: Mathlib/Geometry/Manifold/Algebra/Structures.lean [hunk 13]
```diff
@@ -17,33 +17,35 @@ open scoped Manifold ContDiff
...
+  compatible := StructureGroupoid.compatible (contDiffGroupoid n I)
+  smooth_add := contMDiff_add I n
   smooth_neg := by simpa only [neg_one_mul] using contMDiff_mul_left (G := R) (a := -1)
 
 end SmoothRing
 
 -- see Note [lower instance priority]
-instance (priority := 100) fieldSmoothRing {𝕜 : Type*} [NontriviallyNormedField 𝕜] :
-    SmoothRing 𝓘(𝕜) 𝕜 :=
+instance (priority := 100) fieldSmoothRing
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Algebra/Structures.lean:46]: Should this instance name be updated also?

**Review by grunweg — COMMENTED** [review]
I've reviewed everything once, except for
- Geometry/Manifold/Algebra/Monoid.lean
- Geometry/Manifold/Algebra/SmoothFunctions.lean
- Geometry/Manifold/AnalyticManifold.lean
- Geometry/Manifold/ContMDiff/Defs.lean
- Geometry/Manifold/SmoothManifoldWithCorners.lean

Mostly very minor comments. This PR is so cross-cutting that also doc-strings and lemma names can go stale: because you generalise things to C^n where appropriate, I think some more things should be called "contDiffThing" and not "smoothThing".
I didn't read the file changing it yet, but "smoothMaximalAtlas" is another such example.

I'm repeating myself, but let me say it again anyway: thanks for attempting this monumental feat. It's only natural that there are lots of little details that can go stale.

I've reviewed this diff "from the bottom", so if something is confusing, you may want to read the comments in opposite order.

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean:31]: (And perhaps search for similar examples in mathlib: I only looked at the diff so far, not searched mathlib if there were further patterns.)

File: Mathlib/Geometry/Manifold/Diffeomorph.lean (hunk 8 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Diffeomorph.lean:84]: Feel free to pull this into a separate PR also.

File: Mathlib/Geometry/Manifold/ChartedSpace.lean (hunk 11 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/ChartedSpace.lean:1054]: Good idea. I've put in #19807 all the material of this PR I could find that makes sense as a standalone PR.

**Comment by grunweg** [comment]
As I also wrote on zulip: I can review the rest of the PR/re-review it on (probably) Tuesday or Wednesday. Review help is very welcome, though.

File: Mathlib/Geometry/Manifold/AnalyticManifold.lean [hunk 14]
```diff
@@ -164,7 +165,7 @@ instance AnalyticManifold.prod {E A : Type} [NormedAddCommGroup E] [NormedSpace
 /-- Analytic manifolds are smooth manifolds. -/
 instance AnalyticManifold.smoothManifoldWithCorners [ChartedSpace H M]
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/AnalyticManifold.lean:166]: Please rename the instance now. I don't have a strong opinion if you need a deprecation; up to you.

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 15]
```diff
@@ -7,14 +7,14 @@ import Mathlib.Geometry.Manifold.SmoothManifoldWithCorners
...
 
-We define `Cⁿ` functions between smooth manifolds, as functions which are `Cⁿ` in charts, and prove
-basic properties of these notions.
+We define `Cⁿ` functions between manifolds, as functions which are `Cⁿ` in charts, and prove
+basic properties of these notions. Here, `n` can be finite, or `∞`, or `ω`.
 
 ## Main definitions and statements
 
-Let `M` and `M'` be two smooth manifolds, with respect to model with corners `I` and `I'`. Let
+Let `M` and `M'` be two manifolds, with respect to model with corners `I` and `I'`. Let
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:17]: grammar nit: it should be *models*, right?
```suggestion
Let `M` and `M'` be two manifolds, with respect to models `I` and `I'` (possibly with corners). Let

Comment (grunweg) [reply Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:17]: another option: write `ModelWithCorners`

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 16]
```diff
@@ -128,12 +128,19 @@ theorem contDiffWithinAt_localInvariantProp (n : ℕ∞) :
     have A : (I' ∘ f ∘ I.symm) (I x) ∈ I'.symm ⁻¹' e'.source ∩ range I' := by
       simp only [hx, mfld_simps]
     have := (mem_groupoid_of_pregroupoid.2 he').1.contDiffWithinAt A
-    convert (this.of_le (mod_cast le_top)).comp _ h _
+    convert (this.of_le hmn).comp _ h _
     · ext y; simp only [mfld_simps]
     · intro y hy; simp only [mfld_simps] at hy; simpa only [hy, mfld_simps] using hs hy.1
 
+/-- Being `Cⁿ` in the model space is a local property, invariant under smooth maps. Therefore,
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:135]: This should read "under C^n maps", right? Please replace

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 17]
```diff
@@ -730,54 +747,67 @@ theorem contMDiffWithinAt_iff_contMDiffOn_nhds
...
     (h : ContMDiffWithinAt I I' n f s x) :
     ∃ u, IsOpen u ∧ x ∈ u ∧ ContMDiffOn I I' m f (insert x s ∩ u) := by
-  rcases contMDiffWithinAt_iff_contMDiffOn_nhds.1 (h.of_le hm) with ⟨t, ht, h't⟩
-  rcases mem_nhdsWithin.1 ht with ⟨u, u_open, xu, hu⟩
-  rw [inter_comm] at hu
-  exact ⟨u, u_open, xu, h't.mono hu⟩
+  have : IsManifold I m M := .of_le hm
+  have : IsManifold I' m M' := .of_le hm
+  match m with
+  | ω =>
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:759]: You can combine these arms: write `| (m : ℕ) | ω =>` here, and delete the last arm.

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean (hunk 16 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:135]: (I would also say "it lifts nicely" instead of "it will lift", but that is minor, perhaps subjective, and pre-existing.)

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 18]
```diff
@@ -25,7 +25,7 @@ Let `M` and `M'` be two smooth manifolds, with respect to model with corners `I`
 
 We also give some basic properties of smooth functions between manifolds, following the API of
 smooth functions between vector spaces.
-See `Basic.lean` for further basic properties of smooth functions between smooth manifolds,
+See `Basic.lean` for further basic properties of smooth functions between manifolds,
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:28]: I'm thinking: should you say 
```
We also give some basic properties of C^n functions between manifolds, following the API of
C^n functions between vector spaces.
See `Basic.lean` for further basic properties of C^n functions between manifolds,
```
instead? (Perhaps the "smoothness" in the lines following this can stay, but these ones feel a bit out of place.)

Comment (grunweg) [reply Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:28]: Line 35, "smooth groupoid": please change that for sure

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 19]
```diff
@@ -44,35 +44,35 @@ in terms of extended charts in `contMDiffOn_iff` and `contMDiff_iff`.
 -/
 
 
-open Set Function Filter ChartedSpace SmoothManifoldWithCorners
+open Set Function Filter ChartedSpace IsManifold
 
 open scoped Topology Manifold ContDiff
 
 /-! ### Definition of smooth functions between manifolds -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:51]: Please also change

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 20]
```diff
@@ -44,35 +44,35 @@ in terms of extended charts in `contMDiffOn_iff` and `contMDiff_iff`.
...
+  -- Prerequisite typeclasses to say that `M'` is a manifold over the pair `(E', H')`
   {E' : Type*}
   [NormedAddCommGroup E'] [NormedSpace 𝕜 E'] {H' : Type*} [TopologicalSpace H']
   {I' : ModelWithCorners 𝕜 E' H'} {M' : Type*} [TopologicalSpace M'] [ChartedSpace H' M']
-  -- Prerequisite typeclasses to say that `M''` is a smooth manifold over the pair `(E'', H'')`
+  -- Prerequisite typeclasses to say that `M''` is a manifold over the pair `(E'', H'')`
   {E'' : Type*}
   [NormedAddCommGroup E''] [NormedSpace 𝕜 E''] {H'' : Type*} [TopologicalSpace H'']
   {I'' : ModelWithCorners 𝕜 E'' H''} {M'' : Type*} [TopologicalSpace M''] [ChartedSpace H'' M'']
   -- declare functions, sets, points and smoothness indices
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:67]: If you say this is intentional, that's fine by me.

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 21]
```diff
@@ -91,9 +91,9 @@ theorem contDiffWithinAtProp_self_target {f : H → E'} {s : Set H} {x : H} :
 
 /-- Being `Cⁿ` in the model space is a local property, invariant under smooth maps. Therefore,
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:92]: Please replace "smooth" by C^n

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 22]
```diff
@@ -187,7 +194,7 @@ variable (I I') in
 /-- A function is `n` times continuously differentiable in a manifold if it is continuous
 and, for any pair of points, it is `n` times continuously differentiable in the charts
 around these points. -/
-def ContMDiff (n : ℕ∞) (f : M → M') :=
+def ContMDiff (n : WithTop ℕ∞) (f : M → M') :=
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:197]: This is about line 203, but I can't comment on that line directly:
"Deducing differentiability from higher differentiability" feels about as logical as "Deducing smoothness from higher smoothness" to me. What do you think?

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 23]
```diff
@@ -244,17 +251,17 @@ theorem contMDiffOn_univ : ContMDiffOn I I' n f univ ↔ ContMDiff I I' n f := b
...
     ContMDiffWithinAt I I' n f s x ↔
       ContinuousWithinAt f s x ∧
         ContDiffWithinAt 𝕜 n (extChartAt I' (f x) ∘ f ∘ (extChartAt I x).symm)
           ((extChartAt I x).symm ⁻¹' s ∩ range I) (extChartAt I x x) := by
   simp_rw [ContMDiffWithinAt, liftPropWithinAt_iff']; rfl
 
-/-- One can reformulate smoothness within a set at a point as continuity within this set at this
-point, and smoothness in the corresponding extended chart. This form states smoothness of `f`
+/-- One can reformulate being `C^n` within a set at a point as continuity within this set at this
+point, and being `C^n` in the corresponding extended chart. This form states smoothness of `f`
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:264]: "smoothness", please fix

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 24]
```diff
@@ -485,7 +493,7 @@ theorem contMDiffOn_zero_iff :
   rw [contMDiffOn_iff]
   refine ⟨fun h ↦ h.1, fun h ↦ ⟨h, ?_⟩⟩
   intro x y
-  rw [show ((0 : ℕ∞) : WithTop ℕ∞) = 0 by rfl, contDiffOn_zero]
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:488]: about line 490: "zero-smoothness" could be changed to "being C⁰"

Comment (grunweg) [reply Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:488]: same for line 551

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 25]
```diff
@@ -545,22 +553,22 @@ theorem contMDiff_zero_iff :
     ContMDiff I I' 0 f ↔ Continuous f := by
   rw [← contMDiffOn_univ, continuous_iff_continuousOn_univ, contMDiffOn_zero_iff]
 
-end SmoothManifoldWithCorners
+end IsManifold
 
 /-! ### Deducing smoothness from smoothness one step beyond -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:558]: pre-existing: this heading is odd. Would you like to fix this now?

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 26]
```diff
@@ -545,22 +553,22 @@ theorem contMDiff_zero_iff :
...
 
-theorem ContMDiffOn.of_succ {n : ℕ} (h : ContMDiffOn I I' n.succ f s) : ContMDiffOn I I' n f s :=
+theorem ContMDiffOn.of_succ (h : ContMDiffOn I I' (n + 1) f s) : ContMDiffOn I I' n f s :=
   fun x hx => (h x hx).of_succ
 
-theorem ContMDiff.of_succ {n : ℕ} (h : ContMDiff I I' n.succ f) : ContMDiff I I' n f := fun x =>
+theorem ContMDiff.of_succ (h : ContMDiff I I' (n + 1) f) : ContMDiff I I' n f := fun x =>
   (h x).of_succ
 
 /-! ### Deducing continuity from smoothness -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:574]: Please change

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 27]
```diff
@@ -581,25 +589,34 @@ theorem ContMDiff.continuous (hf : ContMDiff I I' n f) : Continuous f :=
 
 /-! ### `C^∞` smoothness -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:590]: Please change also

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 28]
```diff
@@ -710,7 +727,7 @@ theorem contMDiffWithinAt_iff_contMDiffOn_nhds
     (hu _ (mem_of_mem_nhdsWithin hxs hmem)).mono_of_mem_nhdsWithin hmem⟩
   -- The property is true in charts. Let `v` be a good neighborhood in the chart where the function
   -- is smooth.
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:729]: Please change

File: Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean [hunk 29]
```diff
@@ -620,10 +617,10 @@ theorem symm_trans_mem_contDiffGroupoid (e : PartialHomeomorph M H) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean:617]: About line 550, can't comment directly there: please change "Smooth functions" to "C^n"

File: Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean [hunk 30]
```diff
@@ -51,18 +50,19 @@ As specific examples of models with corners, we define (in `Geometry.Manifold.In
 * `modelWithCornersEuclideanHalfSpace n :
   ModelWithCorners ℝ (EuclideanSpace ℝ (Fin n)) (EuclideanHalfSpace n)` for the model space
   `n`-dimensional real manifolds without boundary (with notation `𝓡 n` in the locale `Manifold`)
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean:52]: pre-existing: there's a missing word here

File: Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean [hunk 31]
```diff
@@ -649,72 +646,127 @@ instance : ClosedUnderRestriction (contDiffGroupoid n I) :=
...
     [NormedAddCommGroup E] [NormedSpace 𝕜 E] {H : Type*} [TopologicalSpace H]
-    {I : ModelWithCorners 𝕜 E H} : SmoothManifoldWithCorners I H :=
+    {I : ModelWithCorners 𝕜 E H} {n : WithTop ℕ∞} : IsManifold I n H :=
   { hasGroupoid_model_space _ _ with }
 
-end SmoothManifoldWithCorners
+end IsManifold
 
-namespace SmoothManifoldWithCorners
+namespace IsManifold
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean:698]: Careful: can you add deprecation warnings for the renamed theorems in this section, please?

**Review by grunweg — COMMENTED** [review]
I've looked through the five files I didn't review yet; comments so far.

These are many comments, but most of them are about the remaining occurrences of the word "smooth", and when it should be changed to "C^n" instead.

**Review by grunweg — COMMENTED** [review]
Additional comments and questions
- I just pushed some changes fixing names directly
- should `SmoothFunctions` get renamed to `CnFunctions`?
- should `ContMDiff/Product` talk about "C^n" instead of smooth?
- TODO: audit the `Geometry/Manifold/VectorBundles` directory for uses of the term "smooth" and if these should perhaps say "C^n"

**Comment by grunweg** [comment]
Remaining steps
- address all comments
- I trust you that you added deprecations correctly. (Please double-check if there are any issues with namespacing - i.e., search of you modified any lines with `namespace`.)
- audit the remaining occurrences of the word "smooth", if it should be "C^n" instead. I just did most of this; checking the `VectorBundle` directory should be sufficient for my taste.

This PR is a huge one, but I think this is close to landing!

File: Mathlib/Geometry/Manifold/Algebra/SmoothFunctions.lean [hunk 32]
```diff
@@ -27,46 +24,48 @@ variable {𝕜 : Type*} [NontriviallyNormedField 𝕜] {E : Type*} [NormedAddCom
   {I' : ModelWithCorners 𝕜 E' H'} {N : Type*} [TopologicalSpace N] [ChartedSpace H N]
   {E'' : Type*} [NormedAddCommGroup E''] [NormedSpace 𝕜 E''] {H'' : Type*} [TopologicalSpace H'']
   {I'' : ModelWithCorners 𝕜 E'' H''} {N' : Type*} [TopologicalSpace N'] [ChartedSpace H'' N']
+  {n : WithTop ℕ∞}
 
-namespace SmoothMap
+namespace ContMDiffMap
```
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/Algebra/SmoothFunctions.lean:29]: The policy in mathlib is *not* to deprecate namespace changes, as they are most often solved just by changing `open SmoothMap` to `open ContMDiffMap`, not by tweaking individual statements.

File: Mathlib/Geometry/Manifold/AnalyticManifold.lean (hunk 14 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/AnalyticManifold.lean:166]: Instances are normally not deprecated.

File: Mathlib/Geometry/Manifold/Algebra/Monoid.lean [hunk 33]
```diff
@@ -193,20 +233,20 @@ theorem R_apply : (𝑹 I g) h = h * g :=
   rfl
 
 @[simp]
-theorem L_mul {G : Type*} [Semigroup G] [TopologicalSpace G] [ChartedSpace H G] [SmoothMul I G]
+theorem L_mul {G : Type*} [Semigroup G] [TopologicalSpace G] [ChartedSpace H G] [ContMDiffMul I ∞ G]
```
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/Algebra/Monoid.lean:236]: Yes. I am really not happy with this file, but it's beyond the PR to fix it.

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean (hunk 17 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:759]: Good catch!

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean (hunk 22 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:197]: To me, differentiability is specifically about `C^1` smoothness, while "smoothness" is more generic. Since this paragraph deals with a generic smoothness exponent, I'd rather keep the current wording.

File: Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean (hunk 31 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean:698]: As above, namespace changes shouldn't be deprecated in mathlib.

**Comment by sgouezel** [comment]
Thanks for fixing directly some files, and for the thorough review!

I think I have taken into account all your comments.

I wouldn't rename the files `SmoothFunctions` to `CnFunctions`, because one can interpret `Smooth` in a loose sense, as functions with some regularity. In any case, this shouldn't be done in this PR, because PRs renaming and changing content at the same time tend to confuse git.

I have switched to `C^n` instead of `smooth` in many places, notably in `ContMDiff.Product`, and in the `VectorBundle` directory. You can see the last few commits to see the changes.

File: Mathlib/Geometry/Manifold/Algebra/Monoid.lean (hunk 33 above)
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Algebra/Monoid.lean:237]: Fair point. I won't insist on fixing this here.

File: Mathlib/Geometry/Manifold/Algebra/SmoothFunctions.lean (hunk 32 above)
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Algebra/SmoothFunctions.lean:29]: Okay!

File: Mathlib/Geometry/Manifold/AnalyticManifold.lean (hunk 14 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/AnalyticManifold.lean]: Right, I should've remembered that.

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean (hunk 22 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:197]: That is a fair argument, accepted!

**Comment by grunweg** [comment]
Thanks for the last changes. I think this has waited for long enough and is ready to go. If we find non-ideal uses of the word "smooth", these can be fixed in future PRs. I'll try to merge master, then maintainer merge this. Thanks for your sustained patience!

**Comment by grunweg** [comment]
Mathlib builds; I just pushed a last commit updating the deprecation dates to today. I think this is good to go.
maintainer merge

**Comment by fpvandoorn** [comment]
This looks really good!

Maybe the file `SmoothFunctions` should also be updated in a follow-up PR.

Thanks!

bors merge

**Comment by fpvandoorn** [comment]
(I see that this rename has been discussed before, I don't feel strongly, but I think it might be nice for discoverability if you already know the Mathlib name of the concept it's about.)
